US05968985
The mixture of methyl 5-hydroxymethyl-3-iodobenzoate (5.0 g) and manganese dioxide (30.0 g) in ethyl acetate (50.0 ml) was heated under reflux for 4 hours. The magnganese dioxide was removed by filtration and the filtrate was evaporated in vacuo to give methyl 5-formyl-3-iodobenzoate (2.77 g).

reactant | methyl 5-hydroxymethyl-3-iodobenzoate | 5.0 g | OCC=1C=C(C=C(C(=O)OC)C1)I | C9H9IO3
solvent | ethyl acetate | 50.0 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 30.0 g | [O-2].[O-2].[Mn+4]
product | methyl 5-formyl-3-iodobenzoate | 2.77 g | C(=O)C=1C=C(C=C(C(=O)OC)C1)I | C9H7IO3
